US04959373
3-(Phenylcarbamyl)-7-(4-chlorobenzyl)-3,7-diazabicyclo[3.3.1]nonane
7-(4-Nitrobenzyl)-3-(phenylcarbamyl)-3,7-diazabicyclo[3.3.1]nonane, mp.: 187° C. (×HCl)

reactant | 7-(4-Nitrobenzyl)-3-(phenylcarbamyl)-3,7-diazabicyclo[3.3.1]nonane | [N+](=O)([O-])C1=CC=C(CN2CC3CN(CC(C2)C3)C(NC3=CC=CC=C3)=O)C=C1 | C21H24N4O3
reactant | HCl | Cl | ClH
product | 3-(Phenylcarbamyl)-7-(4-chlorobenzyl)-3,7-diazabicyclo[3.3.1]nonane | C1(=CC=CC=C1)NC(=O)N1CC2CN(CC(C1)C2)CC2=CC=C(C=C2)Cl | C21H24ClN3O
